US07446201B2
Step 2: Synthesis of 5-(1-Benzofuran-2-yl)-8-methoxy-quinoline.
To a stirred solution of 5-chloro-8-methoxy-quinoline (0.330 g, 1.70 mmol) in THF (2 mL) at room temperature was added benzofuran-2-boronic acid (0.413 g, 2.55 mmol) followed by KF (0.296 mL, 5.10 mmol), Pd(OAc)2 (0.0382 g, 0.170 mmol), and 2-(di-tert-butyl phosphino)biphenyl (0.101 g, 0.340 mmol). The reaction mixture was stirred at room temperature for 18 hours and then diluted with EtOAc (200 mL). The organic layer was washed with H2O (20 mL) and brine (20 mL) then dried (Na2SO4). After concentration, the residue was purified on a Biotage Flash 40 apparatus (30-70% EtOAc:petroleum ether) to afford the product (0.291 g, 62%) as a solid. Mass spectrum (+ESI, [M+H]+) m/z 276. 1H NMR (500 MHz, DMSO-d6): δ 8.94 (d, 1H, J=2.2 Hz), 8.83 (d, 1H, J=9.4 Hz), 7.99 (d, 1H, J=8.6 Hz), 7.66-7.77 (m, 3H), 7.27-7.41 (m, 4H), and 4.6 ppm (s, 3H).

reactant | 5-chloro-8-methoxy-quinoline | 1.70 mmol, 0.330 g | ClC1=C2C=CC=NC2=C(C=C1)OC | C10H8ClNO
reactant | benzofuran-2-boronic acid | 2.55 mmol, 0.413 g | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | KF | 5.10 mmol, 0.296 mL | [F-].[K+]
reactant | 2-(di-tert-butyl phosphino)biphenyl | 0.340 mmol, 0.101 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.170 mmol, 0.0382 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(1-Benzofuran-2-yl)-8-methoxy-quinoline | 0.291 g, 62% | O1C(=CC2=C1C=CC=C2)C2=C1C=CC=NC1=C(C=C2)OC | C18H13NO2
